US05644028
To 3.25 g (11.3 mmol) of Boc-Thz-NH-tBu, 15 ml (195 mmol) of trifluoroacetic acid was added under ice cooling and the resultant mixture was stirred at that temperature for 30 min and evaporated. The residue was washed with hexane by decantation and partitioned between chloroform and 1N NaOH aqueous solution. The organic layer was dried over Na2SO4 and evaporated under reduced pressure to give 2.00 g (Y. 94%) of H-Thz-NH-tBu which was convened to Qoa--Mta--AHPBA--Thz--NH-tBu by a similar method with processes 3-5 of Example 3.

reactant | Boc-Thz-NH-tBu | 11.3 mmol, 3.25 g | N1([C@H](C(=O)NC(C)(C)C)CSC1)C(=O)OC(C)(C)C | C13H24N2O3S
reactant | trifluoroacetic acid | 195 mmol, 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | H-Thz-NH-tBu | 2.00 g, 94% | N1[C@H](C(=O)NC(C)(C)C)CSC1 | C8H16N2OS
